US07595398B2
2-[5-(4-methoxy-benzyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (Compound 5112)
A mixture of Z-Pro-OH (0.96 g, 3.84 mmol), HATU (1.46 g, 3.84 mmol), and DIEA (0.094 mL, 5.4 mmol) in DMF (30 mL) was stirred at room temperature for 1 hour. 1 mL of this solution was added to 10 mg of 5-(4-Methoxy-benzyl)-thiazol-2-ylamine and reaction mixture stirred at room temperature overnight. The resulting mixture was diluted with DMF (5 mL) and water (0.5 mL) and purified using reverse phase HPLC to furnish the corresponding product. MS: 452.1 (M+H+)

reactant | Z-Pro-OH | 3.84 mmol, 0.96 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | HATU | 3.84 mmol, 1.46 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 5.4 mmol, 0.094 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(4-Methoxy-benzyl)-thiazol-2-ylamine | 10 mg | COC1=CC=C(CC2=CN=C(S2)N)C=C1 | C11H12N2OS
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | 2-[5-(4-methoxy-benzyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(NC=1SC(=CN1)CC1=CC=C(C=C1)OC)=O | C24H25N3O4S
